US09403845B2
To a solution of ethy 3-amino-6-bromo-pyridine-2-carboxylate (10 g, 40.8 mmol) in THF (50 ml) was added Ac2O (12 ml, 127.8 mmol) at ambient temperature then the solution was heated to 60° C. for 3 h. The solution was allowed to cool to ambient temperature then concentrated under reduced pressure and dissolved in ethyl acetate. This afforded the product in crystalline form. The mother liquor was purified using flash chromatography eluting with ethyl acetate/heptane, gradient, giving ethyl 3-acetamido-6-bromo-pyridine-2-carboxylate as a yellow solid.

reactant | ethy 3-amino-6-bromo-pyridine-2-carboxylate | 40.8 mmol, 10 g | NC=1C(=NC(=CC1)Br)C(=O)OCC | C8H9BrN2O2
reactant | Ac2O | 127.8 mmol, 12 ml | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethyl 3-acetamido-6-bromo-pyridine-2-carboxylate | C(C)(=O)NC=1C(=NC(=CC1)Br)C(=O)OCC | C10H11BrN2O3
